US07435837B2
Treatment of (±)-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.01 g, 2.56 mmol) with sodium azide (0.664 g, 10.24 mmol) generally according to the procedure described for Intermediate 98 gave (±)-2-(azidomethyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzofuran. Treatment of the azide with palladium on carbon (0.03 g, 10 wt. %) generally according to the procedure described for Example 1 provided 0.528 g (75%) of (±)-1-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 231-232° C.; Anal. calcd. for C16H17NOHCl: C, 69.69; H, 6.58; N, 5.08. Found: C, 66.26; H, 7.0; N, 4.73.

reactant | (±)-[7-(4-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 2.56 mmol, 1.01 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)C | C23H22O4S
reactant | sodium azide | 10.24 mmol, 0.664 g | [N-]=[N+]=[N-].[Na+]
product | (±)-2-(azidomethyl)-7-(4-methylphenyl)-2,3-dihydro-1-benzofuran | N(=[N+]=[N-])CC1OC2=C(C1)C=CC=C2C2=CC=C(C=C2)C | C16H15N3O
